US07550458B2
4-(1,7-Dimethyl-3,5-dioxo-10-oxa4-aza-tricyclo[5.2.1.02,6]dec-8-en4-yl)-2-trifluoromethyl-benzonitrile
A slurry of 4-(2,5-Dioxo-2,5-dihydro-pyrrol-1-yl)-2-trifluoromethyl-benzonitrile (30 g, 113 mmol) and 2,5-dimethylfuran (70 mL) was stirred at 60° C. for 0.5 h. After toluene (40 mL) was added, the reaction mixture was stirred at 60° C. for 3 h. The mixture was then cooled in ice bath. The solid was collected by filtration and washed with cold toluene (30 mL) to give Preparation 1 as an off white solid (36.8 g, 102 mmol, 90% yield).

reactant | 4-(2,5-Dioxo-2,5-dihydro-pyrrol-1-yl)-2-trifluoromethyl-benzonitrile | 113 mmol, 30 g | O=C1N(C(C=C1)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F | C12H5F3N2O2
reactant | 2,5-dimethylfuran | 70 mL | CC=1OC(=CC1)C | C6H8O
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(1,7-Dimethyl-3,5-dioxo-10-oxa4-aza-tricyclo[5.2.1.02,6]dec-8-en4-yl)-2-trifluoromethyl-benzonitrile | 102 mmol, 36.8 g, 90% yield | CC12C3C(N(C(C3C(C=C1)(O2)C)=O)C2=CC(=C(C#N)C=C2)C(F)(F)F)=O | C18H13F3N2O3
